US06887874B2
A suspension of 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline (200 mg, 0.62 mmol), (prepared as described for the starting material in Example 1), 5-hydroxyindole (100 mg, 0.75 mmol) and potassium carbonate (129 mg, 0.93 mmol) in DMF (3 ml) was stirred at 100° C. for 6 hours. After cooling, the volatiles were removed under vacuum and the residue was purified by column chromatography eluting with methylene chloride/methanol saturated with ammonia (98/2 to 90/10). The fractions containing the expected product were combined and evaporated to give 4-(indol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline (40 mg, 15%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline | 0.62 mmol, 200 mg | ClC1=CN=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-hydroxyindole | 0.75 mmol, 100 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | potassium carbonate | 0.93 mmol, 129 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(indol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline | 40 mg, 15% | N1C=CC2=CC(=CC=C12)OC1=CN=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C24H26N4O3
